US06617357B2
To a solution of 4-hydroxy-2-methyl-5-nitro(N,N-dimethyl)benzenesulfonamide (200 mg, 0.77 mmol) in dry DMF (2 mL) was added sodium hydroxide (74 mg, 1.85 mmol) and chlorodifluoroacetic acid (120 mg, 0.92 mmol). The resulting reaction mixture was stirred at 120° C. for 18 h. After cooling, the reaction was diluted with water and ethyl acetate, and the layers were separated. The organics were washed three times with 1 N NaOH, dried and concentrated. The residue was purified by flash chromatography (20% ethyl acetate/hexanes) to provide 4-difluoromethoxy-2-methyl-5-nitro (N,N-dimethyl)-benzenesulfonamide (51 mg, 21%) as a yellow solid, mp 125-126° C.

reactant | 4-hydroxy-2-methyl-5-nitro(N,N-dimethyl)benzenesulfonamide | 0.77 mmol, 200 mg | OC1=CC(=C(C=C1[N+](=O)[O-])S(=O)(=O)N(C)C)C | C9H12N2O5S
reactant | sodium hydroxide | 1.85 mmol, 74 mg | [OH-].[Na+]
reactant | chlorodifluoroacetic acid | 0.92 mmol, 120 mg | ClC(C(=O)O)(F)F | C2HClF2O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-difluoromethoxy-2-methyl-5-nitro (N,N-dimethyl)-benzenesulfonamide | 51 mg, 21% | FC(OC1=CC(=C(C=C1[N+](=O)[O-])S(=O)(=O)N(C)C)C)F | C10H12F2N2O5S
